US07429665B2
4-(2-Quinolin-2-yl-ethyl)-benzoic acid methyl ester
To a solution of 4-[Triphenyl-phophanyl)-methyl]-benzoic acid methyl ester (1.87 g) in THF (16 ml) under N2 atmosphere at 0° C. was added sodium hydride (165 mg (60%)). After 30 min, quinoline-2-carbaldehyde (0.50 g) was added and the reaction stirred at ambient temperature for 2 h. The reaction mixture was quenched with brine, extracted with chloroform, dried magnesium sulfate, filtered and concentrated to provide the crude alkene. The crude product was placed on a parr shaker in ethanol (15 ml) with palladium hydroxide (200 mg) as the catalyst under 10 PSI of H2. After 40 min, the reaction mixture was filtered through celite and concentrated. Biotage MPLC chromatography eluting with 10-20% ethyl acetate/hexane provided the title compound. MS: (M+H m/z=292.1).

reactant | benzoic acid methyl ester | 1.87 g | COC(C1=CC=CC=C1)=O | C8H8O2
reactant | sodium hydride | 165 mg | [H-].[Na+]
reactant | quinoline-2-carbaldehyde | 0.50 g | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | THF | 16 ml | C1CCOC1 | C4H8O
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium hydroxide | 200 mg | [OH-].[Pd+2].[OH-]
product | 4-(2-Quinolin-2-yl-ethyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CCC1=NC2=CC=CC=C2C=C1)=O | C19H17NO2
